US08426411B2
To N-((1R,3R)-3-(6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentyl)aniline (0.106 g, 0.224 mmol) in 1,4-dioxane (1 mL) was added NaOH (1 N aqueous, 1.12 mL, 1.12 mmol). The reaction mixture was heated at about 60° C. for about 1 h. AcOH (0.5 mL) was added and the crude reaction mixture was purified by RP-HPLC (Table 1, Method j) to give N-((1R,3R)-3-(6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentyl)aniline (0.053 g, 74%) as a light yellow solid: LC/MS (Table 1, Method b) Rt=1.84 min; MS m/z: 319 (M+H)+.

reactant | N-((1R,3R)-3-(6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentyl)aniline | 0.224 mmol, 0.106 g | S(=O)(=O)(C1=CC=C(C)C=C1)N1C=CC2=C1N=CC=1N2C(=NN1)[C@H]1C[C@@H](CC1)NC1=CC=CC=C1 | C25H24N6O2S
reactant | NaOH | 1.12 mmol, 1 N, 1.12 mL | [OH-].[Na+]
reactant | AcOH | 0.5 mL | CC(=O)O | C2H4O2
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | N-((1R,3R)-3-(6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentyl)aniline | 0.053 g, 74% | C1(=NN=C2N1C1=C(N=C2)NC=C1)[C@H]1C[C@@H](CC1)NC1=CC=CC=C1 | C18H18N6
